US05447943
To a solution of 5-iodosalicylic acid (1 g, 0.378 mol) in anhydrous tetrahydrofuran (4 ml) at 0° C. was added dropwise borane-tetrahydrofuran complex (1.0M solution in tetrahydrofuran, 11.4 ml). After fifteen minutes at room temperature, the mixture was heated at reflux for two hours. Water and ethyl acetate were added to the cooled solution, the organic phase separated and evaporated to give crude product. The residue was washed with pentane to afford 0.8 g (84.21%) of 2-hydroxy-5-iodo-benzyl alcohol, m.p. 125° C.

reactant | 5-iodosalicylic acid | 0.378 mol, 1 g | IC1=CC=C(C(C(=O)O)=C1)O | C7H5IO3
reactant | borane tetrahydrofuran | 1.0M, 11.4 ml | B.O1CCCC1
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-hydroxy-5-iodo-benzyl alcohol | 0.8 g, 84.21% | OC1=C(CO)C=C(C=C1)I | C7H7IO2
